US07045545B1
N-tert-butoxycarbonyl 1-(2-trimethylsilyl-5-fluorobenzofur-7-yl)-2-aminopropane
A solution of 0.20 gm (0.68 mMol) N-tert-butoxycarbonyl 1-(5-fluorobenzofur-7-yl)-2-aminopropane in 10 mL tetrahydrofuran was cooled to −78° C. under a nitrogen atmosphere. To this solution were then added 0.96 mL (1.53 mMoL) n-butyllithium (1.6 M in hexane) dropwise, resulting in an orange solution. After 50 minutes 0.14 mL (1.02 mMol) trimethylsilylisocyanate were added dropwise. After 15 minutes the reaction mixture was quenched by addition of 2 mL saturated aqueous ammonium chloride and was then allowed to warm to room temperature. The reaction mixture was partitioned between 150 mL ethyl acetate and 150 mL water. The phases were separated and the organic phase was washed sequentially with 150 mL water and 150 mL saturated aqueous sodium chloride, dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel chromatography, eluting with 10:1 hexane:ethyl acetate. Fractions containing product were combined and concentrated under reduced pressure to provide the desired compound.

reactant | N-tert-butoxycarbonyl 1-(5-fluorobenzofur-7-yl)-2-aminopropane | 0.68 mMol, 0.20 gm | C(C)(C)(C)OC(=O)NC(CC1=CC(=CC=2C=COC21)F)C | C16H20FNO3
reactant | n-butyllithium | 1.6 M, 0.96 mL | C(CCC)[Li]
reactant | trimethylsilylisocyanate | 1.02 mMol, 0.14 mL | C[Si](C)(C)N=C=O | C4H9NOSi
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | N-tert-butoxycarbonyl 1-(2-trimethylsilyl-5-fluorobenzofur-7-yl)-2-aminopropane | C(C)(C)(C)OC(=O)NC(CC1=CC(=CC=2C=C(OC21)[Si](C)(C)C)F)C | C19H28FNO3Si
